US05618821
To a suspension of 0.1 g (0.55 mmol) of 2-acetyl-6-(3-hydroxypropyl)-pyridine, 0.14 g of 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol, 0.175 g (1.2 eq) of triphenylphosphine in DMF under nitrogen at 0° C. was added dropwise a solution of 0.097 g (1.2 eq) of DEAD in DMF. The bright red solution was stirred at room temperature overnight, diluted with water, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, concentrated in vacuo, and the residue was purifed by MPLC to afford 2-acetyl-6-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine.

reactant | 2-acetyl-6-(3-hydroxypropyl)-pyridine | 0.55 mmol, 0.1 g | C(C)(=O)C1=NC(=CC=C1)CCCO | C10H13NO2
reactant | 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol | 0.14 g | FC(C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C)(F)F | C11H9F3N2O2
reactant | triphenylphosphine | 0.175 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.097 g, 1.2 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-acetyl-6-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine | C(C)(=O)C1=NC(=CC=C1)CCCOC1=C(C=C(C=C1C)C1=NOC(=N1)C(F)(F)F)C | C21H20F3N3O3
